US08247401B2
Step F: 3-(5-chloropyridin-2-yl)-5-(1-hydroxy-1-methylethyl)benzoic acid
To a solution of 3-(5-chloropyridin-2-yl)-5-isopropenylbenzoic acid (0.18 g, 0.46 mmol) in water (4.6 mL) was added methanesulfonic acid (1.5 mL, 23.1 mmol). The mixture was heated to 50° C. After 18 h, the mixture was cooled to ambient temperature and sodium carbonate was added to adjust pH to 3-4. The mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by reverse phase chromatography (C-18, 100% water/acetonitrile→25% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (80 mg). MS 292.1 (M+1).

reactant | 3-(5-chloropyridin-2-yl)-5-isopropenylbenzoic acid | 0.46 mmol, 0.18 g | ClC=1C=CC(=NC1)C=1C=C(C(=O)O)C=C(C1)C(=C)C | C15H12ClNO2
reactant | methanesulfonic acid | 23.1 mmol, 1.5 mL | CS(=O)(=O)O | CH4O3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 4.6 mL | O | H2O
product | 3-(5-chloropyridin-2-yl)-5-(1-hydroxy-1-methylethyl)benzoic acid | 80 mg | ClC=1C=CC(=NC1)C=1C=C(C(=O)O)C=C(C1)C(C)(C)O | C15H14ClNO3
